US08614226B2
A slurry of 204 mg (0.50 mmol) 4-[4-(5-bromo-pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl-ester, 167 mg (0.55 mmol) 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid and 50.4 mg (0.6 mmol) sodium bicarbonate in 2 ml DMF and 0.5 ml water were heated to 80° C. under nitrogen. Then 7.0 mg (0.01 mmol) bis-(triphenylphosphine)-palladium(II)-chloride were added. The reaction mixture was stirred for 40 hours at 80° C. The reaction mixture was partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and evaporated. The residue was chromatographed on a silica gel column with petrolether/ethylacetate as eluent yielding 4-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester as colourless crystals; HPLC-MS: 2.55 min, [M+H] 585.

reactant | 4-[4-(5-bromo-pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl-ester | 0.50 mmol, 204 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC=C(C1)Br | C18H23BrN4O2
reactant | 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid | 0.55 mmol, 167 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)B(O)O)F | C14H9BClFN2O2
reactant | sodium bicarbonate | 0.6 mmol, 50.4 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 0.5 ml | O | H2O
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.01 mmol, 7.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC=C(C1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C32H30ClFN6O2
